US05659084
To a stirred solution of N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine (21.0 g, 0.12 mol) in tetrahydrofuran (75 mL), n-BuLi (1.54M, 78 mL, 0.12 mol) was added over 1 h such that the temperature was maintained between 20°-30° C. with cooling. The mixture was stirred for 30 min and 1-chloro-7-phenylheptane (21.05 g, 0.1 mol) in tetrahydrofuran (40 mL) was added quickly. The mixture was heated at 50° C. for 3 h and quenched by the slow addition of dilute hydrochloric acid. Hydrolysis was completed by heating the mixture at 50°-60° C. for 2.5 h. The mixture was cooled to ambient temperature and the organic phase separated. The aqueous phase was extracted with hexane, and the combined organic extracts were washed with water. The extracts were dried over magnesium sulphate and, after filtering and washing the filter cake with hexane, the organic solution was concentrated under vacuum to give 2-(8-phenyloctyl)benzaldehyde as an oil (34.56 g, 65.3% pure by HPLC assay, 77% corrected yield).

reactant | N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine | 0.12 mol, 21.0 g | CC1=C(C=CC=C1)C=NC(C)(C)C | C12H17N
reactant | n-BuLi | 0.12 mol, 1.54M, 78 mL | [Li]CCCC
reactant | 1-chloro-7-phenylheptane | 0.1 mol, 21.05 g | ClCCCCCCCC1=CC=CC=C1 | C13H19Cl
reactant | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(8-phenyloctyl)benzaldehyde | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
